US05696159
(A) p-Fluoro-α-methylcinnamic acid
p-Fluorobenzaldehyde (200 g, 1.61 mol), propionic anhydride (3.5 g, 2.42 mol) and sodium propionate (155 g, 1.61 mol) are mixed in a 1 l three-necked flask which had been flushed with nitrogen. The flask is heated gradually in an oil-bath to 140°. After 20 h, the flask is cooled to 100° and poured into 8 l of water. The precipitate is dissolved by adding potassium hydroxide (302 g) in 2 l of water. The aqueous solution is extracted with ether, and the ether extracts washed with potassium hydroxide solution. The combined aqueous layers are filtered, are acidified with concentrated HCl, and are filtered. The collected solid, p-fluoro-α-methylcinnamic acid, is washed with water, and is dried and used as obtained.

reactant | p-Fluorobenzaldehyde | 1.61 mol, 200 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | propionic anhydride | 2.42 mol, 3.5 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium propionate | 1.61 mol, 155 g | C(CC)(=O)[O-].[Na+]
product | p-Fluoro-α-methylcinnamic acid | FC1=CC=C(C=C(C(=O)O)C)C=C1 | C10H9FO2
